US04686228
4-Amino-6,7-dimethoxy-2-(piperazin-1-yl)quinoline (1.26 g) and 2-chloro-4-dimethylaminopyrimidine (0.76 g) in n-butanol (60 ml) were heated under reflux for 16 hours. The mixture was then evaporated in vacuo, the residue partitioned between chloroform and sodium carbonate solution (10%) and the aqueous phase extracted with chloroform. The combined extracts were washed with water, dried (Na2SO4), evaporated in vacuo and the residue chromatographed on silica gel (Merck 9385). Elution with chloroform-methanol (100:0→95.5) followed by treatment of the product with ethereal hydrogen chloride and recrystallisation from methanol gave 4-amino-6,7-dimethoxy-2-[4-(4-dimethylaminopyrimidin-2-yl)piperazin-1-yl]quinoline dihydrochloride dihydrate (0.19 g), m.p. 260°-263°.

reactant | 4-Amino-6,7-dimethoxy-2-(piperazin-1-yl)quinoline | 1.26 g | NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCNCC1 | C15H20N4O2
reactant | 2-chloro-4-dimethylaminopyrimidine | 0.76 g | ClC1=NC=CC(=N1)N(C)C | C6H8ClN3
solvent | n-butanol | 60 ml | C(CCC)O | C4H10O
product | 4-amino-6,7-dimethoxy-2-[4-(4-dimethylaminopyrimidin-2-yl)piperazin-1-yl]quinoline dihydrochloride dihydrate | 0.19 g | O.O.Cl.Cl.NC1=CC(=NC2=CC(=C(C=C12)OC)OC)N1CCN(CC1)C1=NC=CC(=N1)N(C)C | InChI=1S/C21H27N7O2.2ClH.2H2O/c1-26(2)19-5-6-23-21(25-19)28-9-7-27(8-10-28)20-12-15(22)14-11-17(29-3)18(30-4)13-16(14)24-20;;;;/h5-6,11-13H,7-10H2,1-4H3,(H2,22,24);2*1H;2*1H2
